US07071175B1
(g) 3-(2-Amino-thiazol-5-yl)-2-mercaptomethyl-propionic acid
A solution of 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonylamino-thiazol-5-yl)-propionic acid ethyl ester (43 mg; 0.11 mmol) in concentrated HCl (1.5 mL) was refluxed under argon for 1.5 hours. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure to yield 30 mg of the crude product. The crude product was purified by preparative HPLC to afford the title compound (8 mg; 21%) as the hydrochloride salt.

reactant | 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonylamino-thiazol-5-yl)-propionic acid ethyl ester | 0.11 mmol, 43 mg | C(C)OC(C(CC1=CN=C(S1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C16H24N2O5S2
solvent | HCl | 1.5 mL | Cl | ClH
product | 3-(2-Amino-thiazol-5-yl)-2-mercaptomethyl-propionic acid | 8 mg, 21% | NC=1SC(=CN1)CC(C(=O)O)CS | C7H10N2O2S2
